US07576215B2
N-(2-CHLOROPHENYL)-N′-{3-[3-CYANO-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}UREA
The title compound was prepared from 4-(3-aminophenyl)-8(trifluoromethyl)quinoline-3-carbonitrile and 2-chlorophenyl isocyanate according to the procedure of Example 65. MS (ES) m/z 464.8.

reactant | 4-(3-aminophenyl)-8(trifluoromethyl)quinoline-3-carbonitrile | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N | C17H10F3N3
reactant | 2-chlorophenyl isocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | N-(2-CHLOROPHENYL)-N′-{3-[3-CYANO-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}UREA | ClC1=C(C=CC=C1)NC(=O)NC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N | C24H14ClF3N4O
